US06610692B1
Step A: 5-Cyano-3-methyl-1,2-benzisoxazole
To a solution of 5′-cyano-2′-fluoroacetophenone (500 mg, 3.06 mmol) in MeOH (5 mL) was added hydroxyamine HCl salt (223 mg, 3.22 mmol) and sodium hydroxide (129 mg, 3.22 mmol). The reaction mixture was stirred at room temperature for 0.5 h and concentrated in vacuo to afford a solid product. This solid was added to a suspension of sodium hydroxide (147 mg, 3.68 mmol) in DMF (5 mL) at 0° C. After 0.5 h the reaction mixture was warmed to room temperature for 4 h and poured into cold brine. The mixture was extracted with ethyl acetate, the organic layer was dried over MgSO4, and concentrated in vacuo to provide a residue. Purification via flash column chromatography (15×150 mm column; gradient elution with MeOH:CH2Cl2:CH2Cl2 saturated with NH3, 5:65:30 to 10:60:30 300 mL each) afforded of a solid:

reactant | 5′-cyano-2′-fluoroacetophenone | 3.06 mmol, 500 mg | C(#N)C=1C=CC(=C(C1)C(C)=O)F | C9H6FNO
reactant | hydroxyamine HCl salt | 3.22 mmol, 223 mg | Cl.ON
reactant | sodium hydroxide | 3.22 mmol, 129 mg | [OH-].[Na+]
reactant | sodium hydroxide | 3.68 mmol, 147 mg | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 5-Cyano-3-methyl-1,2-benzisoxazole | C(#N)C=1C=CC2=C(C(=NO2)C)C1 | C9H6N2O
